US05362743
A mixture consisting of 5.0 g (0.041 mole) of o-anisidine (available from the Aldrich Chemical Company, Inc. of Milwaukee, Wis.), 8.86 g (0.041 mole) of β-ketoadipic acid diethyl ester (available from Sigma Chemical Company of St. Louis, Mo.) and 6.07 g (0.041 mole) of triethyl orthoformate (also available from Aldrich) was placed in an open reaction flask and heated to 140° C. for a period of three hours, at which point no further amount of ethanol by-product formation could be observed to evolve from the reaction mixture. Upon completion of this step, the spent reaction mixture was allowed to cool to ambient temperatures (ca. 20° C.) on standing overnight for a period of approximately 16 hours. The resulting residual solid was thereafter triturated with petroleum ether and filtered to give 11.53 g (82%) of pure o-[2-ethoxycarbonyl-2-(3-ethoxycarbonylpropionyl)-1-ethylideneamino]anisole. The pure product was characterized by means of mass spectrum (MS) analysis and nuclear magnetic resonance (NMR) data.

reactant | o-anisidine | 0.041 mole, 5.0 g | COC=1C(=CC=CC1)N | C7H9NO
reactant | β-ketoadipic acid diethyl ester | 0.041 mole, 8.86 g | C(C)OC(CC(CCC(=O)OCC)=O)=O | C10H16O5
reactant | triethyl orthoformate | 0.041 mole, 6.07 g | C(OCC)(OCC)OCC | C7H16O3
solvent | ethanol | C(C)O | C2H6O
product | o-[2-ethoxycarbonyl-2-(3-ethoxycarbonylpropionyl)-1-ethylideneamino]anisole | 11.53 g, 82% | C(C)OC(=O)C(C=NC1=C(C=CC=C1)OC)C(CCC(=O)OCC)=O | C18H23NO6
